US04502882
1,3-Benzodioxole-4-sulfonamide
To a solution of 18.8 g 3-bromocatechol (prepared according to the procedure of H. S. Mason, J. Am. Chem. Soc., 1947, 69, 2241) and 10 g methylene chloride in 150 ml dimethyl sulfoxide at ambient temperature under nitrogen is added 8.3 g of sodium hydroxide (powdered). The reaction mixture is heated at 120° C. for 2 hours. Steam distillation gives 13.5 g of the solid, 4-bromo-1,3-benzodioxole. The solid is dissolved in 200 ml of tetrahydrofuran under a nitrogen atmosphere, cooled to -78° C. and treated sequentially with 42.2 ml n-butyllithium (1.6N in hexane) for 16 hours and excess sulfur dioxide until no further exotherm is noted. The reaction mixture is contacted with 10 ml isopropyl alcohol, concentrated in vacuo and crystallized from ether/tetrahydrofuran to give a solid. The solid is added to 150 ml of acetic acid and cooled to 20° C. A slurry of 12 g N-chlorosuccinimide in 75 ml acetic acid is added portionwise with cooling to maintain a reaction temperature of 20°-25° C. The reaction mixture is stirred for three hours at room temperature and the solvent is removed under reduced pressure to give an oil which is dissolved in methylene chloride and washed with water. The organic phase is dried, and the solvent removed under reduced pressure to give an oil which is dissolved in 250 ml ether and cooled to 10° C. Excess ammonia (anhy.) is bubbled through the reaction mixture with external cooling. The reaction mixture is washed with water, dried, and concentrated under reduced pressure to give a solid.

reactant | n-butyllithium | 1.6N, 42.2 ml | C(CCC)[Li]
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
reactant | N-chlorosuccinimide | 12 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 1,3-Benzodioxole-4-sulfonamide | O1COC2=C1C=CC=C2S(=O)(=O)N | C7H7NO4S
